US08034814B2
trans 1-(4-Isopropyl-cyclohexylamino)-4-[6-hydroxy-(pyridin-3-yl)-methyl]-phthalazine
Under N2 atmosphere, 0.35 ml (2.6 mMol) of Me3Sil are added to 500 mg (1.3 mMol) of trans 1-(4-isopropyl-cyclohexylamino)-4-[6-methoxy-(pyridin-3-yl)-methyl]-phthalazine in 15 ml of chloroform, followed by stirring for 16 h at 60° C. After cooling to RT, 15 ml of sat. NaHCO3 solution, 10 ml of water, EtOAc and a small amount of methanol are added, followed by agitation. From the resulting solution, the aqueous phase is removed and extracted twice with EtOAc. The organic phases are washed with water and brine, dried (Na2SO4) and evaporated to dryness. Crystallization by partial evaporation of a solution in methanol results in the title compound: M.p. 271-272° C. (decomposition); FAB-MS: (M+H)+=377; HPLC(Grad20-100) tRet=10.2.

reactant | trans 1-(4-isopropyl-cyclohexylamino)-4-[6-methoxy-(pyridin-3-yl)-methyl]-phthalazine | 1.3 mMol, 500 mg | C(C)(C)[C@@H]1CC[C@H](CC1)NC1=NN=C(C2=CC=CC=C12)CC=1C=NC(=CC1)OC | C24H30N4O
reactant | NaHCO3 | 15 ml | C(=O)(O)[O-].[Na+]
reactant | water | 10 ml | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
product | trans 1-(4-Isopropyl-cyclohexylamino)-4-[6-hydroxy-(pyridin-3-yl)-methyl]-phthalazine | C(C)(C)[C@@H]1CC[C@H](CC1)NC1=NN=C(C2=CC=CC=C12)CC=1C=NC(=CC1)O | C23H28N4O
